US05198451
A mixture of 2-(3-(3-methoxyphenyl)-3-phenyl-2-propen-1-yloxy)ethanol (52 g, 0.18 mol) and triethylamine (46 g, 0.46 mol) in dry toluene (200 ml) kept under a nitrogen atmosphere was cooled below 10° C. and a solution of methanesulphonyl chloride (41.7 g, 0.36 mol) in dry toluene (200 ml) was added dropwise keeping the temperature below 10° C. When addition was complete the reaction mixture was stirred for 1 h at 5° C. and then for 0.5 h at approximately 15° C. Water was added (250 ml) and the mixture was stirred at room temperature for 0.5 h. The separated organic phase was washed with a 5% sodium bicarbonate solution, brine and dried over sodium sulphate. The mixture was filtered and the filtrate was reduced to approximately 500 ml in vacuo. Ethyl (R)-3-piperidinecarboxylate (57.2 g, 0.36 mol) and potassium carbonate (62.8 g, 0.46 mol) were added and the mixture was heated at reflux temperature for 48 h. The cooled reaction mixture was filtered and the solid was washed with toluene and ethyl acetate successively. The combined organic filtrates was evaporated in vacuo to an oily residue which was dissolved into ethyl acetate (250 ml). Water (150 ml) was added and pH was adjusted to 4 with 10% citric acid solution. The phases were separated and the organic phase was washed with water (150 ml). The combined aqueous phases was extracted with ethyl acetate (150 ml) and then discarded. The combined organic phases was washed with a 5% sodium bicarbonate solution, brine, dried over sodium sulphate and the solvent evaporated in vacuo. The residue was dissolved in toluene (150 ml) and a solution of tartaric acid (42 g) in water (120 ml) was added. The phases were separated and the organic phase was extracted with another solution of tartaric acid (12 g) in water (50 ml). The combined aqueous extracts was extracted with ethyl acetate (200 ml) which was discarded. Ethyl acetate (200 ml) was added to the acidic aqueous phase which was made alkaline with excess of a sodium bicarbonate solution. The separated organic phase was washed with brine and dried over sodium sulphate. The solvent was evaporated in vacuo to give 46.6 g (60% of (R)-N-(2-(3-(3-methoxyphenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester as an oil. TLC: rf=0.36 (SiO2 ; chloroform/methanol/acetic acid=20:2:1). (R)-N-(2-(3-(3-Methoxyphenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester (25 g, 59 mmol) was dissolved into 96% ethanol (275 ml) and a 12 N sodium hydroxide solution (22 ml) was added. The reaction mixture was stirred at room temperature for 3.5 h. The solvent was evaporated in vacuo and dichloromethane was added (250 ml). A concentrated hydrochloric acid solution (29.5 ml) was added with cooling of the reaction vessel in an ice-bath. The phases were separated and the organic phase was dried over sodium sulphate. The solvent was evaporated in vacuo to give a residue which was dissolved into water (250 ml). The aqueous solution was extracted with toluene (3×50 ml) and diethyl ether (50 ml). The organic extracts were discarded and from the aqueous phase water was evaporated in vacuo to give 25 g (98%) of the title compound as an oil. TLC: rf=0.23 (SiO2 ; chloroform/methanol/acetic acid=80:15:5).

reactant | 2-(3-(3-methoxyphenyl)-3-phenyl-2-propen-1-yloxy)ethanol | 0.18 mol, 52 g | COC=1C=C(C=CC1)C(=CCOCCO)C1=CC=CC=C1 | C18H20O3
reactant | triethylamine | 0.46 mol, 46 g | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.36 mol, 41.7 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Ethyl (R)-3-piperidinecarboxylate | 0.36 mol, 57.2 g | N1C[C@@H](CCC1)C(=O)OCC | C8H15NO2
reactant | potassium carbonate | 0.46 mol, 62.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | Water | O | H2O
product | (R)-N-(2-(3-(3-methoxyphenyl)-3-phenyl-2-propen-1-yloxy)ethyl)-3-piperidinecarboxylic acid ethyl ester | 60% | C(C)OC(=O)[C@H]1CN(CCC1)CCOCC=C(C1=CC=CC=C1)C1=CC(=CC=C1)OC | C26H33NO4
